US04902835
Potassium carbonate (6.0 g, 43.5 mmol) was added to a solution of 3.0 g (10.5 mmol) 3-chloro-4-phenylsulfonyl-1,1,2-trifluoro-1-butene in 30 mL methanol at room temperature in a 100 mL round-bottom flask. The resulting mixture was stirred for 12 hours at room temperature. After removal of solvent in vacuo, the residue was partitioned between 50 mL diethyl ether and 50 mL 10% aqueous hydrochloric acid. The whole mixture was stirred for one hour at room temperature. The ether layer was washed once with brine, then dried over anhydrous magnesium sulfate. Evaporation of solvent gave a crystalline product, which was purified by recrystallization from 30% ethyl acetate in hexanes to give 2.50 g (93.9%) methyl 2-fluoro-4-phenylsulfonyl-2butenoate as pale yellow crystals, mp 104.0°-105.0° C. 1H-NMR (300 MHz, CDCl3): δ 3.82(3H, s), 4.05(2H, dd, J=28 Hz), 6.17(1H, dt, J=8, 30 Hz), 7.55-7.9(phenyl protons 5H). Mass spectrum: m/e=258 (M+). 19F-NMR (CDCl3): φ 121.4(d, J=31.0 ). Anal.: Calcd. for C11H11FO4S: C, 51.16; H, 4.26. Found: C, 51.02; H, 4.37.

reactant | Potassium carbonate | 43.5 mmol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-4-phenylsulfonyl-1,1,2-trifluoro-1-butene | 10.5 mmol, 3.0 g | ClC(C(=C(F)F)F)CS(=O)(=O)C1=CC=CC=C1 | C10H8ClF3O2S
reactant | methanol | 30 mL | CO | CH4O
product | methyl 2-fluoro-4-phenylsulfonyl-2butenoate | 2.50 g, 93.9% | FC(C(=O)OC)=CCS(=O)(=O)C1=CC=CC=C1 | C11H11FO4S
